US04322557
(R)-1-phenoxy-2,3-dihydroxypropane
A mixture of 110 g (0.384 mol) of (R)-2,3-O-isopropylidene-1-O-tuluenesulfonyl-1,2,3-trihydroxypropane (J. J. Baldwin, A. W. Raab, K. Mensler, B. H. Arison, D. E. McClure, J. Org. Chem., 43, 4876 (1978)), 72.3 g (0.768 mol) of phenol, 106.2 g (0.768 mol) of potassium carbonate, and 1.0 g (0.007 mole) of potassium iodide in 400 ml of dry dimethylformamide was heated under nitrogen at 100°-110° for 5 hours. After cooling to room temperature, 600 ml of ether was added, the slurry filtered and the filtrate washed with water, brine, and dried over anhydrous magnesium sulfate. Removal of the drying agent by filtration followed by isolation in vacuo afforded an oil which was refluxed in 80 ml of acetone and 240 ml of 1N hydrochloric acid for 30 minutes. The acetone was removed in vacuo, the aqueous solution extracted with 3×200 ml of ethyl acetate and the combined organic layers washed with 1 N sodium hydroxide (200 ml), water (200 ml), brine (200 ml) and dried over anhydrous magnesium sulfate. On removal of the drying agent by filtration the solvent was removed in vacuo to afford an oil, which solidified on standing. Crystallization from ethyl acetate/petroleum ether afforded 29.8 g (51%) of the title compound: mp 64°-65°; [α]24D -8.88° (1,.5,CHCl3); 1H-nmr (CDCl3) δ 7.50-6.81 (m,5), 4.31-3.89 (m,1), 4.01 (s,2,OH), 3.89-3.57 (m,4); ir (KBr) cm-1 3425 (s,OH).

reactant | phenol | 0.768 mol, 72.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.768 mol, 106.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ether | 600 ml | CCOCC | C4H10O
reactant | hydrochloric acid | 1N, 240 ml | Cl | ClH
reactant | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | acetone | 80 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 0.007 mole, 1.0 g | [I-].[K+]
product | (R)-1-phenoxy-2,3-dihydroxypropane | 29.8 g, 51% | O(C1=CC=CC=C1)C[C@@H](CO)O | C9H12O3
